### PR TITLE
[Merged by Bors] - chore(MeasureTheory/Integral/Lebesgue): remove an `erw`

### PR DESCRIPTION
**Pull request by felixpernegger**
Extracted from #40348

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/Lebesgue/Countable.lean [hunk 1]
```diff
@@ -238,7 +238,9 @@ theorem exists_pos_lintegral_lt_of_sigmaFinite (μ : Measure α) [SigmaFinite μ
   have hN_meas : Measurable N := measurableSet_spanningSetsIndex μ
   have hNs : ∀ n, N ⁻¹' {n} = s n := preimage_spanningSetsIndex_singleton μ
   refine ⟨δ ∘ N, fun x => δpos _, measurable_from_nat.comp hN_meas, ?_⟩
-  erw [lintegral_comp measurable_from_nat.coe_nnreal_ennreal hN_meas]
+  have := Function.comp_assoc (fun (x : ℝ≥0) ↦ (↑x : ℝ≥0∞)) δ N
+  change ∫⁻ (x : α), ↑(((fun (n : ℕ) ↦ (↑(δ n) : ℝ≥0∞)) ∘ N) x) ∂μ < ε
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Integral/Lebesgue/Countable.lean]: I suspect it's now the `change` which is hiding the defeq abuse. I don't think this is better.

Comment (felixpernegger) [reply Mathlib/MeasureTheory/Integral/Lebesgue/Countable.lean]: Thanks, I rewrote it slightly to get rid of of that (do the `change` manually so to say)

**Comment by felixpernegger** [comment]
-awaiting-author

**Review by j-loreaux — COMMENTED** [review]
Thanks

bors merge
